US07592358B2
30.1c. 1-[2-(2-azidomethyl-4-bromophenoxy)ethyl]pyrrolidine
0.33 g (5.00 mmol) of sodium azide were added to a solution of 500 mg (1.57 mmol) of 1-[2-(4-bromo-2-chloromethylphenoxy)ethyl]pyrrolidine in 5 mL of DMF and the mixture was stirred for 16 hours at 35° C. Water was added and the phases were separated. The aqueous phase was exhaustively extracted with DCM, and the combined organic extracts were washed with saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, and evaporated down in vacuo. The crude product was used in the next reaction step without any further purification. Yield: 0.42 g (82% of theoretical); C13H17BrN4O (M=325.204); HPLC-MS: 5.62 minutes (method A).

reactant | sodium azide | 5.00 mmol, 0.33 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-[2-(4-bromo-2-chloromethylphenoxy)ethyl]pyrrolidine | 1.57 mmol, 500 mg | BrC1=CC(=C(OCCN2CCCC2)C=C1)CCl | C13H17BrClNO
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[2-(2-azidomethyl-4-bromophenoxy)ethyl]pyrrolidine | N(=[N+]=[N-])CC1=C(OCCN2CCCC2)C=CC(=C1)Br | C13H17BrN4O
